US06552068B1
A suspension of 2-hydroxy-4-methoxybenzaldehyde (6.10 g), 4-methoxyphenylacetylchloride (11.1 g) and potassium carbonate (20 g) in acetone (400 ml) was heated under reflux for 2 hours. The reaction mixture was evaporated to remove the solvent, followed by addition of water. The resulting precipitates were collected by filtration and dried under reduced pressure to give 7-methoxy-3-(4-methoxyphenyl)-chromen-2-one (10.1 g, Yield 89%).

reactant | 2-hydroxy-4-methoxybenzaldehyde | 6.10 g | OC1=C(C=O)C=CC(=C1)OC | C8H8O3
reactant | 4-methoxyphenylacetylchloride | 11.1 g | COC1=CC=C(C=C1)CC(=O)Cl | C9H9ClO2
reactant | potassium carbonate | 20 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 400 ml | CC(=O)C | C3H6O
product | 7-methoxy-3-(4-methoxyphenyl)-chromen-2-one | 10.1 g, Yield 89% | COC1=CC=C2C=C(C(OC2=C1)=O)C1=CC=C(C=C1)OC | C17H14O4
